### PR TITLE
[Merged by Bors] - feat(Order): order isomorphisms from `Fin n` for small `n`

### PR DESCRIPTION
**Pull request by joelriou**
We define order isomorphisms like `Fin.orderIsoTriple` from `Fin 3` to the finset `{a, b, c}` when `a < b` and `b < c`.

---

- [x] depends on: #21119
 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Fin/Finset.lean [hunk 1]
```diff
@@ -0,0 +1,55 @@
...
+variable {α : Type*} [Preorder α] [DecidableEq α]
+
+/-- This is the order isomorphisms from `Fin 1` to a finset `{a}`. -/
+@[simps! apply]
+noncomputable def orderIsoSingleton (a : α) :
+    Fin 1 ≃o ({a} : Finset α) :=
+  StrictMono.orderIsoOfSurjective ![⟨a, by simp⟩] strictMono_vecEmpty (fun ⟨x, hx⟩ ↦ by
+      simp only [Finset.mem_singleton] at hx
+      subst hx
+      · exact ⟨0, rfl⟩)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/Fin/Finset.lean:29]: Probably this one should be generalized
```suggestion
-- move to Mathlib.Order.Hom.Basic
@[simps!]
noncomputable def OrderIso.ofUnique
    (A B : Type*) [Unique A] [Unique B] [Preorder A] [Preorder B] :
    A ≃o B where
  __ := Equiv.ofUnique A B
  map_rel_iff' {a b} := by simp

variable {α : Type*} [Preorder α] [DecidableEq α]

/-- This is the order isomorphisms from `Fin 1` to a finset `{a}`. -/
@[simps! apply]
noncomputable def orderIsoSingleton' (a : α) :
    Fin 1 ≃o ({a} : Finset α) :=
  .ofUnique _ _
```

Comment (joelriou) [reply Mathlib/Order/Fin/Finset.lean]: Thanks for the suggestion!

File: Mathlib/Order/Fin/Finset.lean [hunk 2]
```diff
@@ -0,0 +1,75 @@
...
+import Mathlib.Data.Finset.Insert
+
+/-!
+# Order isomorphisms from Fin to finsets
+
+We define order isomorphisms like `Fin.orderIsoTriple` from `Fin 3`
+to the finset `{a, b, c}` when `a < b` and `b < c`.
+
+-/
+
```
Comment (joelriou) [inline Mathlib/Order/Fin/Finset.lean:17]:
```suggestion
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/Order/Fin/Finset.lean [hunk 3]
```diff
@@ -0,0 +1,74 @@
...
+namespace Fin
+
+variable {α : Type*} [Preorder α]
+
+/-- This is the order isomorphisms from `Fin 1` to a finset `{a}`. -/
```
Comment (Vierkantor) [inline Mathlib/Order/Fin/Finset.lean:22]:
```suggestion
/-- This is the order isomorphism from `Fin 1` to a finset `{a}`. -/
```

File: Mathlib/Order/Fin/Finset.lean [hunk 4]
```diff
@@ -0,0 +1,74 @@
...
+lemma orderIsoSingleton_apply (a : α) (i : Fin 1) :
+    orderIsoSingleton a i = a := rfl
+
+variable [DecidableEq α]
+
+section
+
+variable (a b : α) (hab : a < b)
+
+/-- This is the order isomorphisms from `Fin 2` to a finset `{a, b}` when `a < b`. -/
```
Comment (Vierkantor) [inline Mathlib/Order/Fin/Finset.lean:37]:
```suggestion
/-- This is the order isomorphism from `Fin 2` to a finset `{a, b}` when `a < b`. -/
```

File: Mathlib/Order/Fin/Finset.lean [hunk 5]
```diff
@@ -0,0 +1,74 @@
...
+@[simp] lemma orderIsoPair_zero : orderIsoPair a b hab 0 = a := rfl
+@[simp] lemma orderIsoPair_one : orderIsoPair a b hab 1 = b := rfl
+
+end
+
+section
+
+variable (a b c : α) (hab : a < b) (hbc : b < c)
+
+/-- This is the order isomorphisms from `Fin 3`
```
Comment (Vierkantor) [inline Mathlib/Order/Fin/Finset.lean:56]:
```suggestion
/-- This is the order isomorphism from `Fin 3`
```

**Review by Vierkantor — COMMENTED** [review]
What surprises me a bit is that we're doing this for `Finset`s and not `Set`s. I suppose we don't really have any machinery for constructing a finset, casting it to a set and then to a type, and asserting all of that is order isomorphic?

I have the feeling that the proofs are going to be annoying to generalize. If we stick with 1, 2, 3 it's going to be fine. But for 4 we'll end up copying and pasting most of the code. Wouldn't it be possible to break up the order iso into something like [`Fin.consOrderIso`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Fin/Tuple.html#Fin.consOrderIso), saying that we can extend an order iso between `Fin n` and a (fin)set `s` to `Fin (n + 1)` and `insert a s`, if `a` is smaller than everything in `s`?

On the other hand, perhaps I'm already too late with these suggestions. The code here is perfectly fine for its goals at the moment. So if you want this in Mathlib quickly, then I'm okay with merging if you can write some TODO items on the two notes above.

File: Mathlib/Order/Fin/Finset.lean [hunk 6]
```diff
@@ -0,0 +1,74 @@
...
+import Mathlib.Order.Fin.Tuple
+import Mathlib.Order.Hom.Set
+import Mathlib.Data.Finset.Insert
+
+/-!
+# Order isomorphisms from Fin to finsets
+
+We define order isomorphisms like `Fin.orderIsoTriple` from `Fin 3`
+to the finset `{a, b, c}` when `a < b` and `b < c`.
+
```
Comment (joelriou) [inline Mathlib/Order/Fin/Finset.lean:15]:
```suggestion
## Future works

* Do the same for `Set` without too much duplication of code (TODO)
* Provide a definition which would take as an input an order
isomorphism `e : Fin (n + 1) ≃o s` (with `s : Set α` (or `Finset α`)) and
extend it to an order isomorphism `Fin (n + 2) ≃o Finset.insert i s` when `i < e 0` (TODO).

```

**Comment by joelriou** [comment]
I am using `Finset` because this is what naturally appears in the future applications of this (in simplicial homotopy theory, typically `a`, `b` and `c` are going to be elements in another `Fin n`) and there it is convenient to be able to use `Finset.card`.
I have added TODOs to be file.

File: Mathlib/Order/Fin/Finset.lean [hunk 7]
```diff
@@ -0,0 +1,80 @@
...
+import Mathlib.Order.Fin.Tuple
+import Mathlib.Order.Hom.Set
+import Mathlib.Data.Finset.Insert
+
+/-!
+# Order isomorphisms from Fin to finsets
+
+We define order isomorphisms like `Fin.orderIsoTriple` from `Fin 3`
+to the finset `{a, b, c}` when `a < b` and `b < c`.
+## Future works
```
Comment (joelriou) [inline Mathlib/Order/Fin/Finset.lean:15]:
```suggestion

## Future works
```

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors r+
